US08003670B2
Step (i): Preparation of 2-Ethylacetanilide
2-Ethylaniline (82.6 mmol, 10 gams) was taken in round bottom flask equipped with a liquid addition funnel and a guard tube. Triethylamine (165 mmol, 16.69 grams) was added to it in one lot. The mass, thus obtained, was cooled to 0-5° C. and added acetyl chloride (123 mmol, 9.73 grams) drop wise, while maintaining the mass temperature below 10° C. After addition of acetyl chloride, cooling was removed and reaction was stirred at 25-28° C. for a period of 3 hours. After completion of the reaction, the reaction mixture was poured onto 200 mL of ice water and aqueous layer was extracted with dichloromethane (2×100 mL). The combined dichloromethane extracts were then washed with water, brine and dried over anhydrous magnesium sulfate. The volatiles were removed under the reduced pressure to obtain 14.09 grams of compound.

reactant | 2-Ethylaniline | 82.6 mmol | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | Triethylamine | 165 mmol, 16.69 grams | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 123 mmol, 9.73 grams | C(C)(=O)Cl | C2H3ClO
product | 2-Ethylacetanilide | 14.09 grams | C(C)CC(=O)NC1=CC=CC=C1 | C10H13NO
